US06740647B1
b) 5-Hydroxymethyl-3-methylthiophene-2-carbonitrile
5.75 g (152 mmol) of sodium borohydride were added portionwise at room temperature to a solution of 23 g (152 mmol) of 5-formyl-3-methylthiophene-2-carbonitrile in 300 ml of absolute ethanol. The reaction mixture was stirred for 5 minutes, concentrated under a water pump vacuum, taken up in ethyl acetate and extracted with 5% strength citric acid solution and with saturated sodium chloride solution, the organic phase was dried over magnesium sulfate, the desiccant was filtered off, and the solvent was distilled off at room temperature and under a water pump vacuum. This gave 24 g of the title compound as a dark red oil which still contained solvent and which was employed in the following reactions without further purification. 1H NMR (270 MHz, DMSO-d6): δ=2.4 (s, 3H), 4.7 (m, 2H), 5.9 (m, 1H), 7.0 (s, 1H).

reactant | sodium borohydride | 152 mmol, 5.75 g | [BH4-].[Na+]
reactant | 5-formyl-3-methylthiophene-2-carbonitrile | 152 mmol, 23 g | C(=O)C1=CC(=C(S1)C#N)C | C7H5NOS
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 5-Hydroxymethyl-3-methylthiophene-2-carbonitrile | OCC1=CC(=C(S1)C#N)C | C7H7NOS
